US06713474B2
To a solution of tert-butyl 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-pyrrolidinecarboxylate (0.8 g, 1.7 mmol) in dichloromethane (25 ml) at 0° C. was added trifluoroacetic acid (5 ml). The reaction mixture was warmed to room temperature and stirred at room temperature for 20 hr. The solvent was evaporated and dilute NaOH added (5N, 10 ml). The resulting residue solution was extracted with EtOAc (3×50 ml) and the combined organics were washed with brine (1×75 ml). The organic solution was dried (sodium sulphate), filtered and evaporated in vacuo to leave 5-(4-phenoxyphenyl)-7-(3-pyrrolidinyl) -7H-pyrrolo[2,3-d]pyrimidin-4-ylamine as a white solid (0.5 g, 79%) m.pt. 182-184° C. Rf in 1:1 EtOAc : MeOH=0.15. 1H NMR (d6 DMSO, 250 MHz): 8.14 (1H, s), 7.37-7.50 (5H, m), 7.05-7.18 (5H, m), 6.14 (2H, bs), 5.23 (1H, m), 3.09-3.27 (2H, m), 2.83-2.98 (2H, m), 2.19-2.33 (1H, m), 1.88-2.01 (1H, m). Mass spec. 371.1758 (C22H2 ON5). IR (KBr disc): 3106, 1585, 1489, 1232 cm−1.

reactant | tert-butyl 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-pyrrolidinecarboxylate | 1.7 mmol, 0.8 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(CC2)C(=O)OC(C)(C)C | C27H29N5O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 5-(4-phenoxyphenyl)-7-(3-pyrrolidinyl) -7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 0.5 g, 79% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CNCC2 | C22H21N5O
